* PEX produced on Sa 12. Sep 15:56:59 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from voltage_mirror_pmos_pex.ext - technology: ihp-sg13cmos5l

.subckt voltage_mirror_pmos_pex Ibias nout VDD in VSS out
X0 nout Ibias VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=2u
X1 Ibias Ibias VDD VDD sg13_hv_pmos ad=1.805p pd=9.88u as=3.23p ps=19.68u w=9.5u l=2u
X2 a_2284_4092# a_2148_1746# VSS.t0 rhigh l=11.3u w=0.5u
X3 out a_174_224# VSS VSS.t2 sg13_hv_nmos ad=2.04p pd=12.68u as=1.14p ps=6.38u w=6u l=5u
X4 a_1876_4092# out VSS.t0 rhigh l=11.3u w=0.5u
X5 VDD a_1740_1746# VSS.t0 rhigh l=11.3u w=0.5u
X6 a_n474_1610# a_n610_168# VSS rhigh l=6.78u w=0.5u
X7 VDD Ibias a_174_224# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=2u
X8 a_n474_1610# a_n338_168# VSS rhigh l=6.78u w=0.5u
X9 Ibias a_n338_168# VSS rhigh l=6.78u w=0.5u
X10 a_2284_4092# VSS VSS.t0 rhigh l=11.3u w=0.5u
X11 a_1876_4092# a_1740_1746# VSS.t0 rhigh l=11.3u w=0.5u
X12 nout a_2148_1746# VSS.t0 rhigh l=11.3u w=0.5u
X13 VSS a_174_224# a_174_224# VSS.t3 sg13_hv_nmos ad=1.14p pd=6.38u as=2.04p ps=12.68u w=6u l=5u
X14 a_n746_1610# in VSS rhigh l=6.78u w=0.5u
X15 a_n746_1610# a_n610_168# VSS rhigh l=6.78u w=0.5u
X16 VDD Ibias Ibias VDD sg13_hv_pmos ad=3.23p pd=19.68u as=1.805p ps=9.88u w=9.5u l=2u
R0 VSS VSS.t0 32.9929
R1 VSS VSS.t2 32.3541
R2 VSS.t3 VSS 32.3475
C0 out a_2012_1832# 0.14184f
C1 VDD a_n474_1610# 0.2585f
C2 a_n474_254# a_n338_254# 0.6822f
C3 Ibias a_n746_1610# 0.0573f
C4 VDD a_1740_1832# 0.62313f
C5 nout Ibias 0.58467f
C6 a_n338_254# a_n474_1610# 0.0188f
C7 a_n610_254# a_n746_254# 0.6822f
C8 a_n610_168# a_n474_254# 0.0188f
C9 out a_1740_1832# 0.0294f
C10 a_n202_254# in 0.01066f
C11 VDD Ibias 13.2853f
C12 a_n610_254# a_n610_168# 0.0188f
C13 a_2148_1832# a_2012_1832# 1.13701f
C14 nout a_1876_1832# 0.08614f
C15 Ibias a_n338_254# 0.07794f
C16 Ibias a_n746_254# 0.02584f
C17 a_1740_1832# a_1740_1746# 0.01899f
C18 a_2012_1832# a_1876_4092# 0.01899f
C19 a_2284_1832# a_2148_1746# 0.01899f
C20 a_n202_254# a_n338_254# 0.6822f
C21 VDD a_1876_1832# 0.05732f
C22 nout a_2420_1832# 0.0337f
C23 a_n338_168# a_n202_254# 0.01794f
C24 out a_2148_1746# 0.1105f
C25 out a_1876_1832# 0.06161f
C26 nout a_2284_1832# 0.06706f
C27 VDD a_n746_1610# 0.25968f
C28 Ibias a_174_224# 1.07301f
C29 a_2284_1832# a_2420_1832# 1.13701f
C30 nout VDD 1.70167f
C31 a_n746_254# a_n746_1610# 0.01794f
C32 a_n474_254# a_n474_1610# 0.0188f
C33 out nout 0.04143f
C34 a_n202_254# a_174_224# 0.02538f
C35 a_n610_254# a_n474_254# 0.6822f
C36 in a_n338_254# 0.01669f
C37 a_1876_1832# a_1740_1746# 0.01899f
C38 out a_2420_1832# 0.01669f
C39 a_n746_254# in 0.13907f
C40 a_174_224# a_2148_1746# 0.02332f
C41 a_2148_1832# a_2148_1746# 0.01899f
C42 out a_2284_1832# 0.03525f
C43 a_n610_168# in 0.10634f
C44 out VDD 0.10792f
C45 Ibias a_n474_254# 0.04573f
C46 a_1876_1832# a_1876_4092# 0.01899f
C47 Ibias a_n474_1610# 0.16076f
C48 a_n338_168# a_n338_254# 0.0188f
C49 nout a_174_224# 0.12933f
C50 nout a_2148_1832# 0.15225f
C51 a_n610_254# Ibias 0.03301f
C52 a_174_224# in 0.04144f
C53 a_1876_1832# a_2012_1832# 1.13701f
C54 VDD a_1740_1746# 0.05014f
C55 nout a_1876_4092# 0.12298f
C56 a_n338_168# a_n610_168# 0.09486f
C57 a_2148_1832# a_2284_1832# 1.13701f
C58 VDD a_174_224# 1.89756f
C59 nout a_2284_4092# 0.10634f
C60 out a_1740_1746# 0.10655f
C61 a_2284_4092# a_2420_1832# 0.01899f
C62 a_174_224# a_n338_254# 0.01011f
C63 nout a_2012_1832# 0.10723f
C64 out a_174_224# 0.58877f
C65 a_1876_1832# a_1740_1832# 1.13701f
C66 out a_2148_1832# 0.06796f
C67 VDD a_1876_4092# 0.09872f
C68 a_2284_4092# a_2284_1832# 0.01899f
C69 a_n202_254# Ibias 0.14305f
C70 a_n746_1610# a_n474_1610# 0.09486f
C71 a_n474_254# in 0.0294f
C72 a_n610_254# a_n746_1610# 0.0188f
C73 VDD a_2012_1832# 0.02112f
C74 nout a_1740_1832# 0.09128f
C75 a_174_224# a_1740_1746# 0.03576f
C76 a_n610_254# in 0.06161f
C77 in VSS 0.75804f
C78 out VSS 7.36085f
C79 nout VSS 1.61188f
C80 VDD VSS 2.11435f
C81 a_n338_168# VSS 0.76583f
C82 a_n474_1610# VSS 0.48493f
C83 a_n610_168# VSS 0.57183f
C84 a_n746_1610# VSS 0.62114f
C85 a_2284_4092# VSS 1.08311f
C86 a_2148_1746# VSS 0.99407f
C87 a_1876_4092# VSS 0.8462f
C88 a_1740_1746# VSS 0.90112f
.ends

