** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/bias_current_generator.sch
.subckt bias_current_generator 40uA+ 5uA+ VDD VSS 5uA- 10uA- 40uA-
*.PININFO 40uA+:O VSS:B VDD:B 40uA-:O 10uA-:O 5uA+:O 5uA-:O
x4 VDD net1 VSS current_reference_40uA
XM11 net1 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM12 40uA+ net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM13 net2 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM14 net2 net2 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM15 40uA- net2 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM1 net3 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM2 net3 net3 VSS VSS sg13_hv_nmos w=4*cm_n_w l=cm_n_l ng=4 m=1 mm_ok=1
XM3 10uA- net3 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM5 net4 net3 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM25 net4 net4 VDD VDD sg13_hv_pmos w=2*cm_p_w l=cm_p_l ng=2 m=1 mm_ok=1
XM26 net5 net4 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM27 5uA+ net4 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM28 net5 net5 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=2 m=1 mm_ok=1
XM29 5uA- net5 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
**** begin user architecture code


.param cm_n_w = 6u
.param cm_n_l = 5u
.param cm_p_w = 10u
.param cm_p_l = 2u


**** end user architecture code
.ends

* expanding   symbol:  current_reference_40uA.sym # of pins=3
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sch
.subckt current_reference_40uA VDD iout VSS
*.PININFO VSS:B VDD:B iout:B
XM8 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM6 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM1 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM3 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR2 net4 VSS VSS rppd w=2e-6 l=21.9e-6 m=1 b=0 mm_ok=1
XM2 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM4 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM5 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM7 iout net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR3 net3 net4 VSS rsil w=0.5e-6 l=365e-6 m=1 mm_ok=1
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
.ends

