** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sch
.subckt hv_inverter_6u5 VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param ng  = 1
.param n_ng = ng
.param n_w = {2u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {6.5u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends
