** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor4.sch
.subckt hv_nor4 VDD in1 out in2 VSS in3 in4
*.PININFO in1:I VDD:B VSS:B out:O in2:I in3:I in4:I
MM2 out in3 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM3 net3 in4 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
MM1 out in4 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM4 out in1 net1 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
MM5 out in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM6 out in1 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM7 net1 in1 net2 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
MM8 net2 in1 net3 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends
